US06136821
C. 6-amino-8-(3-nitrophenyl)-1,7-naphthyridine
To a stirred solution of 6-amino-8-bromo-1,7-naphthyridine (4 g, 0.018 mol) in a mixture of tetrahydrofuran (80 ml) and aqueous Na2CO3 (34 ml, 2N) is added bis(dibenzylideneacetone)palladium (0.40 g, 0.0007 mol), triphenylphosphene (0.37 g, 0.0014 mol) and 3-nitrophenylboronic acid (3.7 g, 0.022 mol). The mixture is stirred for 16 h at 80° C. The mixture is filtered, ethyl acetate added and the mixture washed with 2N NaOH and water. The organic solvent is removed and the residue suspended in ether. Filtration affords the title compound. Mass M+H 267. mp 221-223° C.

reactant | 6-amino-8-bromo-1,7-naphthyridine | 0.018 mol, 4 g | NC=1C=C2C=CC=NC2=C(N1)Br | C8H6BrN3
reactant | Na2CO3 | 2N, 34 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-nitrophenylboronic acid | 0.022 mol, 3.7 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | bis(dibenzylideneacetone)palladium | 0.0007 mol, 0.40 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 6-amino-8-(3-nitrophenyl)-1,7-naphthyridine | NC=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C14H10N4O2
